US04367235
4-(2-Hydroxy-3-tert.-butylaminopropoxy)-7-methyl-2-benzimidazolinone
8.0 g. 2,3-Diamino-1-(2-hydroxy-3-tert.-butylaminopropoxy)-4-methylbenzene trihydrochloride are dissolved in 220 ml. water. Phosgene is passed into the solution and the precipitated crystals are filtered off with suction. After recrystallisation thereof from ethanol, with the addition of active charcoal, there are obtained 3.55 g. (54% of theory) 4-(2-hydroxy-3-tert.-butylaminopropoxy)-7-methyl-2-benzimidazolinone hydrochloride, the decomposition point of which is 312° C.

reactant | 2,3-Diamino-1-(2-hydroxy-3-tert.-butylaminopropoxy)-4-methylbenzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC(=C1N)C)OCC(CNC(C)(C)C)O
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-(2-hydroxy-3-tert.-butylaminopropoxy)-7-methyl-2-benzimidazolinone hydrochloride | Cl.OC(COC1=CC=C(C=2NC(NC21)=O)C)CNC(C)(C)C
solvent | water | O | H2O
product | 4-(2-Hydroxy-3-tert.-butylaminopropoxy)-7-methyl-2-benzimidazolinone | OC(COC1=CC=C(C=2NC(NC21)=O)C)CNC(C)(C)C | C15H23N3O3
